US04668727
N,N-Bis(p-carboxybenzyl)hydroxylamine
When N,N-bis(p-methoxycarbonylbenzyl)hydroxylamine, prepared in Example 1, is dissolved in an organic solvent and saponified with an aqueous sodium hydroxide solution, th above-named free acid compound is obtained after acidification with a mineral acid.

reactant | N,N-bis(p-methoxycarbonylbenzyl)hydroxylamine | COC(=O)C1=CC=C(CN(O)CC2=CC=C(C=C2)C(=O)OC)C=C1 | C18H19NO5
reactant | sodium hydroxide | [OH-].[Na+]
product | N,N-Bis(p-carboxybenzyl)hydroxylamine | C(=O)(O)C1=CC=C(CN(O)CC2=CC=C(C=C2)C(=O)O)C=C1 | C16H15NO5
